US08067459B2
Synthesis of 2-methyl-9-piperidin-1-yl-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione (Compound 15)
To a solution of 9-bromo-2-methyl-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione (0.1 g, 0.31 mmol) in 1,4-dioxane (1.0 mL) was added piperidine (0.061 mL, 0.616 mmol) and potassium carbonate (0.043 g, 0.308 mmol). The reaction mixture was stirred at 90° C. for 18 hours. The resulting mixture was filtered and solvent was removed under reduced pressure. The crude mixture was purified by flash column chromatography (SiO2, 50% EtOAc in hexanes) to give the product as a purple solid (0.025 g, 25%). M.p.=225-226° C.; 400 MHz 1H NMR (CDCl3) δ: 7.91 (d, J=8.8, 1H), 7.09 (d, J=2.8, 1H), 6.72 (m, 1H), 4.62 (m, 1H), 3.49 (m, 4H), 3.07 (d, J=13.6, 1H), 2.88 (m, 1H), 1.71 (br. s, 6H), 1.60 (d, J=6.4, 3H); LCMS: 330 [M+H].

reactant | 9-bromo-2-methyl-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione | 0.31 mmol, 0.1 g | BrC1=CC=C2C(C(C3=C(OC(CS3)C)C2=C1)=O)=O | C13H9BrO3S
reactant | piperidine | 0.616 mmol, 0.061 mL | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.308 mmol, 0.043 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-9-piperidin-1-yl-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione | 0.025 g, 25% | CC1CSC2=C(O1)C1=CC(=CC=C1C(C2=O)=O)N2CCCCC2 | C18H19NO3S
